US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-METHYLCYCLOPROPYLMETHYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (2-methylcyclopropylmethyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (26% yield). 1H NMR (500 MHz, CDCl3) δ 8.06, 7.96, 7.75, 7.65, 7.58, 7.38, 7.01, 4.04-4.10, 3.86-3.93, 3.69-3.83, 3.25-3.42, 1.12, 1.05, 0.71-0.80, 0.64-0.72, 0.39-0.45, 0.25-0.30. MS (ES+) m/z 448 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (2-methylcyclopropylmethyl)amide | CC1C(C1)CNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-METHYLCYCLOPROPYLMETHYL)AMIDE | CC1C(C1)CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H24F3N5O2
